US06956050B2
STEP 4. 2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethanol
To a stirred solution of 1-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]-2-ethyl-4-phenyl-1H-imidazole (1.84 g, 4.6 mmol) in tetrahydrofuran (25 mL) was added tetrabutylammonium fluoride (1.84 g, 6.9 mmol) at 0° C. After 1 h, the reaction mixture was partitioned between ethyl acetate and water. The aqueous phase was extracted with ethyl acetate and the combined organic phase was dried (MgSO4) and concentrated under reduced pressure. Purification by flash column chromatography on silica gel eluting with hexane/ethyl acetate (gradient elution from 1:1 to 0:1) to afford 1.44 g (quant) of the title compound as colorless amorphous : MS (ESI) m/z 293 [M+H]+1H-NMR (CDCl3)δ1.26 (3H, t, J=7.5 Hz), 2.72 (2H, q, J=7.5 Hz), 2.95 (2H, t, J=6.6 Hz), 3.93 (2H, t, J=6.6 Hz), 7.22-7.28 (4H, m), 7.34-7.41 (4H, m), 7.79 (2H, d, J=7.1 Hz).

reactant | 1-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]-2-ethyl-4-phenyl-1H-imidazole | 4.6 mmol, 1.84 g | [Si](C)(C)(C(C)(C)C)OCCC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=CC=C1)CC | C25H34N2OSi
reactant | tetrabutylammonium fluoride | 6.9 mmol, 1.84 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethanol | C(C)C=1N(C=C(N1)C1=CC=CC=C1)C1=CC=C(C=C1)CCO | C19H20N2O
